US07449533B2
(2) Synthesis of 2-(3-trimethylsilylcyclopentadienyl)-2-(3,6-di-tert-butylfluorenyl)propane
In a 50 ml Schlenk flask purged with nitrogen, 1.44 g (3.74 mmol, 1 eq) of 2-(cyclopentadienyl)-2-(3,6-di-tert-butylfluorenyl)propane was placed at room temperature. Then, 20 ml of dehydrated THF was added, and the mixture was stirred by a magnetic stirrer to give a solution. The solution was cooled with an ice bath (light yellowish orange solution). To the solution, 2.5 ml (1.63 mmol, 1.09 eq) of n-BuLi (hexane solution) was dropwise added. The ice bath was removed, and the solution was stirred at room temperature for 19 hours (dark red solution). The solution was cooled with an ice bath, and to the solution, 2.7 ml (21.3 mmol, 5.70 eq) of chlorotrimethylsilane was dropwise added by a syringe. The ice bath was removed, and the solution was stirred at room temperature for 3 hours. The resulting yellow solution was poured into 80 ml of a diluted hydrochloric acid solution to perform quenching. After the soluble component was extracted with 100 ml of diethyl ether, the organic phase was washed with 50 ml of a saturated saline solution. The organic phase was dried over MgSO4, then the MgSO4 was filtered off, and from the filtrate the solvent was vacuum distilled off by a rotary evaporator to obtain a light yellow solid. The solid was washed with 50 ml of methanol and vacuum dried to obtain 1.44 g a light creamy powder (yield: 84%)

reactant | 2-(cyclopentadienyl)-2-(3,6-di-tert-butylfluorenyl)propane | 3.74 mmol, 1.44 g, 1 eq | C1(C=CC=C1)C(C)(C)C1=CC(=CC=2C3=CC(=CC=C3CC12)C(C)(C)C)C(C)(C)C | C29H36
reactant | n-BuLi | 1.63 mmol, 2.5 ml, 1.09 eq | [Li]CCCC
reactant | chlorotrimethylsilane | 21.3 mmol, 2.7 ml, 5.70 eq | Cl[Si](C)(C)C | C3H9ClSi
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 2-(3-trimethylsilylcyclopentadienyl)-2-(3,6-di-tert-butylfluorenyl)propane | 1.44 g, yield: 84% | C[Si](C1=CC(C=C1)C(C)(C)C1=CC(=CC=2C3=CC(=CC=C3CC12)C(C)(C)C)C(C)(C)C)(C)C | C32H44Si
